US07030128B2
A stirred solution of 2,6-dibromopyridine (5.0 g, 20.7 mmol), triethylamine (3.0 ml, 21.7 mmol) and morpholine (1.8 g, 20.7 mmol) in dimethylsulfoxide (25 ml) was heated at 85° C. for 4 h. After cooling to ambient temperature the reaction was poured into water. After decanting off the aqueous, the gum was dissolved in dichloromethane, washed with water and saturated brine, then dried over magnesium sulfate, filtered and evaporated in vacuo to give a solid. Purification by chromatography on silica gel eluting with dichloromethane gave 4-(6-bromopyridin-2-yl)morpholine (3.0 g) as a white solid: δH (400 MHz, CDCl3) 3.50 (4H, t, J 5), 3.80 (4H, t, J 5), 6.50 (1H, d, J 8), 6.79 (1H, d, J 8), 7.31 (1H, dd, J 8 and 8); m/z (ES+) 242/244 (M++H).

reactant | 2,6-dibromopyridine | 20.7 mmol, 5.0 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | triethylamine | 21.7 mmol, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine | 20.7 mmol, 1.8 g | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 4-(6-bromopyridin-2-yl)morpholine | 3.0 g | BrC1=CC=CC(=N1)N1CCOCC1 | C9H11BrN2O
